US09079928B2
Dibenzyl phosphate (2.78 g, 10 mmol) in water (40 mL) was cooled in an ice bath. Subsequently, 1N NaOH was added while shaking the flask until the pH of solution was about 7. The solid dissolved almost completely. Then silver nitrate (1.89 g, 11 mmol) in water (20 mL) was added slowly. After adding, the resulting solid was collected by filtration and washed with water. The solid was dried in vacuum over phosphorus pentoxide to yield silver dibenzyl phosphate (3.18 g) (yield, 82.5%) as a white solid.

reactant | Dibenzyl phosphate | 10 mmol, 2.78 g | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | silver nitrate | 11 mmol, 1.89 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 40 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | silver dibenzyl phosphate | 3.18 g, 82.5% | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-].[Ag+] | InChI=1S/C14H15O4P.Ag/c15-19(16,17-11-13-7-3-1-4-8-13)18-12-14-9-5-2-6-10-14;/h1-10H,11-12H2,(H,15,16);/q;+1/p-1
